US08314138B2
To a solution of 2-{6-[(E)-2-(4-fluoro-phenyl)-vinyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid benzylamide (40 mg, 0.09 mmol, 1.0 equiv) in ethyl acetate/ethanol (1:1) was added Pd(OH)2 (10 mg, 20%). The flask was first purged with nitrogen, then with hydrogen. The reaction mixture was stirred at ambient temperature for 3 hr and monitored by LCMS. Upon completion, the reaction mixture was diluted with ethyl acetate, filtered through Celite and concentrated in vacuo. The crude product was purified by preparative HPLC (acetonitrile/water, 0.1% trifluoroacetic acid) to afford {6-[2-(4-fluoro-phenyl)-ethyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid benzylamide (24 mg, 60%). 1H NMR (400 MHz, CD2Cl2) δ 9.15 (s, 1H), 8.36 (s, 1H), 7.28-7.37 (m, 5H), 7.13-7.17 (m, 2H), 6.92-6.96 (m, 2H), 6.25 (bs, 1H), 4.60 (d, J=4.0 Hz, 2H), 3.07-3.16 (m, 4H), 2.73 (s, 3H); HRMS (M+H)+=433.15.

reactant | 2-{6-[(E)-2-(4-fluoro-phenyl)-vinyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid benzylamide | 0.09 mmol, 40 mg, 1.0 equiv | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)\C=C\C1=CC=C(C=C1)F)C | C24H19FN4OS
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
catalyst | Pd(OH)2 | 10 mg | [OH-].[OH-].[Pd+2]
product | {6-[2-(4-fluoro-phenyl)-ethyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid benzylamide | 24 mg, 60% | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)CCC1=CC=C(C=C1)F)C | C24H21FN4OS
